US05124331
3,4-Dihydro-3-(2-chlorophenyl)-2-(4-ethyl-1-piperazinylmethyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine
To 3 g of 3,4-dihydro-2-bromomethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine were added 40 ml of dimethylformamide, 0.8 ml of 1-ethylpiperazine and 2.7 g of potassium carbonate, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured onto water, and the mixture was extracted with chloroform. The concentrated residue was purified by silica gel column chromatography, crystallized from ethyl acetate and recrystallized from ethanol to give 320 mg of the title compound, m.p. 203°-204° C. (decomposition).

reactant | 3,4-dihydro-2-bromomethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 3 g | BrCC=1N(C(C2=C(N1)SC(=C2)S(N)(=O)=O)=O)C2=C(C=CC=C2)Cl | C13H9BrClN3O3S2
reactant | 1-ethylpiperazine | 0.8 ml | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3,4-Dihydro-3-(2-chlorophenyl)-2-(4-ethyl-1-piperazinylmethyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 320 mg | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(N)(=O)=O)CN2CCN(CC2)CC | C19H22ClN5O3S2
